US08536168B2
1-Benzyl-4-bromo-isoquinoline (Compound 29)
In a 40 mL vial 490 mg (2.00 mmol) 1-chloro-4-bromo-isoquinoline and 40 mg (0.034 mmol) tetrakis(triphenylphosphine)palladium(0) is added to 4 mL THF. After all solids are dissolved, 8 mL of 0.5 M (4.0 mmol) benzyl zinc bromide in THF is slowly added by syringe and the resulting reaction mixture is stirred at 25° C. After 12 hrs, the mixture is poured into cold solution of saturated NH4Cl and extracted with EtOAc. The organic extracts are concentrated in vacuo and the resulting residue is purified by silica chromatography using a heptane/EtOAc gradient. Pure fractions are pooled and evaporated to give 150 mg (0.50 mmol) of the title compound.

reactant | 1-chloro-4-bromo-isoquinoline | 2.00 mmol, 490 mg | ClC1=NC=C(C2=CC=CC=C12)Br | C9H5BrClN
reactant | benzyl zinc bromide | 4.0 mmol, 0.5 M | [Br-].C(C1=CC=CC=C1)[Zn+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.034 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-4-bromo-isoquinoline | 0.50 mmol, 150 mg | C(C1=CC=CC=C1)C1=NC=C(C2=CC=CC=C12)Br | C16H12BrN
